US09382500B2
1-(5-(pent-1-ynyl)benzo[d][1,3]dioxol-2-yl)ethanone
A solution of 1-(5-bromobenzo[d][1,3]dioxol-2-yl)ethanone (4.13 g), copper (I) iodide (0.16 g), pent-1-yne (2.32 g), triphenylphosphine palladium chloride (1.19 g) and triethylamine (7 ml) in acetonitrile (40 ml) was stirred overnight at 50° C. Then 100 ml of heptane were added and the organic layer was washed successively with a 2M HCl solution and three times with water, dried over MgSO4 and concentrated. The crude reaction mixture was purified by flash chromatography on silica gel (eluant heptane/ethyl acetate 97/3) to give 3.91 g (22%) of a colorless oil.

reactant | 1-(5-bromobenzo[d][1,3]dioxol-2-yl)ethanone | 4.13 g | BrC1=CC2=C(OC(O2)C(C)=O)C=C1 | C9H7BrO3
reactant | pent-1-yne | 2.32 g | C#CCCC | C5H8
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | heptane | 100 ml | CCCCCCC | C7H16
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | copper (I) iodide | 0.16 g | [Cu]I
catalyst | triphenylphosphine palladium chloride | 1.19 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(5-(pent-1-ynyl)benzo[d][1,3]dioxol-2-yl)ethanone | 3.91 g, 22% | C(#CCCC)C1=CC2=C(OC(O2)C(C)=O)C=C1 | C14H14O3
